US06632815B2
4-methylsulfonyl-3-nitrobenzoic acid (0.90 g, 3.7 mmol) was dissolved in 10 mL ethanol. To it were added hydrazine monohydrate (0.46 mL, 15 mmol) and catalytic amount of 10% Pd/C. The mixture was refluxed for 1.5 hour, diluted with methanol, filtered through celite and concentrated in vacuuo to afford 3-amino-4-methylsulfonylbenzoic acid (>70%). ES-MS: (M+H)+216.

reactant | 4-methylsulfonyl-3-nitrobenzoic acid | 3.7 mmol, 0.90 g | CS(=O)(=O)C1=C(C=C(C(=O)O)C=C1)[N+](=O)[O-] | C8H7NO6S
reactant | hydrazine monohydrate | 15 mmol, 0.46 mL | O.NN
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | methanol | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | 3-amino-4-methylsulfonylbenzoic acid | >70% | NC=1C=C(C(=O)O)C=CC1S(=O)(=O)C | C8H9NO4S
